US05439911
A solution of ethyl 4-(2-(4-(2-methylthioethyl)phenyl)ethylamino)-6-ethylpyrimidine-5-carboxylate (0.25 g, 0.67 mmol) in methylene chloride (20 ml) was stirred under ice-cooling. 80% m-Chloroperbenzoic acid (0.16 g, 0.74 mmol) was added to the solution. The mixture was stirred under ice-cooling for 20 minutes, and then a 1N aqueous solution (20 ml) of sodium hydroxide was added. The mixture was extracted with methylene chloride and dried over magnesium sulfate. After evaporation of the solvent, the residue was purified by column chromatography on silica gel eluting with ethyl acetate/methanol (=8/2) to give the desired ethyl 4-(2-(4-(2-methylsulfinylethyl)phenyl)ethylamino)-6-ethylpyrimidine-5-carboxylate (0.20 g, 77%).

reactant | ethyl 4-(2-(4-(2-methylthioethyl)phenyl)ethylamino)-6-ethylpyrimidine-5-carboxylate | 0.67 mmol, 0.25 g | CSCCC1=CC=C(C=C1)CCNC1=NC=NC(=C1C(=O)OCC)CC | C20H27N3O2S
reactant | m-Chloroperbenzoic acid | 0.74 mmol, 0.16 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | ethyl 4-(2-(4-(2-methylsulfinylethyl)phenyl)ethylamino)-6-ethylpyrimidine-5-carboxylate | 0.20 g, 77% | CS(=O)CCC1=CC=C(C=C1)CCNC1=NC=NC(=C1C(=O)OCC)CC | C20H27N3O3S
